US05679683
4-Chloroindolo[3,2-d]pyrimidine hydrochloride 240 mg, 1 mmol) and (R)-(+)-methylbenzylamine (1 ml) are stirred under a dry nitrogen atmosphere at 150 for 5 hours, and then concentrated under reduced pressure to an oil. This oil is dissolved in EtOAc (20 ml), and stirred for 16 h. The precipitate which forms is collected by filtration, washed with EtOAc, and dried at 90 in vacuo to give 4-([R]-1-phenylethylamino)indolo[3,2-d]pyrimidine hydrochloride (37 mg, 11%). 1H NMR (DMSO): δ10 (1H, s), 9.14 (1H, brs), 8.64 (1H, s), 8.16 (1H, d, J=8.0 Hz), 7.74 (1H, d, J=8.5 Hz), 7.63-7.59 (1H, m), 7.50 (2H, d, J=7.2 Hz), 7.38-7.24 (4H, m), 5.59 (1H, p, J=7.0 Hz); 1.64 (3H, d, J=7.0 Hz).

reactant | 4-Chloroindolo[3,2-d]pyrimidine hydrochloride | 1 mmol, 240 mg | Cl.ClC=1C2=C(N=CN1)C=1C=CC=CC1N2
reactant | (R)-(+)-methylbenzylamine | 1 ml | CC[C@H](C1=CC=CC=C1)N | C9H13N
product | 4-([R]-1-phenylethylamino)indolo[3,2-d]pyrimidine hydrochloride | 37 mg, 11% | Cl.C1(=CC=CC=C1)[C@@H](C)NC=1C2=C(N=CN1)C=1C=CC=CC1N2 | InChI=1S/C18H16N4.ClH/c1-12(13-7-3-2-4-8-13)21-18-17-16(19-11-20-18)14-9-5-6-10-15(14)22-17;/h2-12,22H,1H3,(H,19,20,21);1H/t12-;/m1./s1
